US08138189B2
Step 7: 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(5-methyl-pyrazin-2-yl)-propyl]-phenoxymethyl}-benzoic acid ethyl ester
To a solution of 3-chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(5-methyl-pyrazin-2-yl)-propyl]-phenol (120 mg, 0.35 mmol) in acetone (3 ml) were added ethyl 4-(bromomethyl)benzoate (197 mg, 0.78 mmol), potassium iodide (9 mg, 0.05 mmol) and potassium carbonate (108 mg, 0.78 mmol). The mixture was stirred for 17 h at 60° C. The reaction mixture was concentrated. Water and EtOAc were added and the mixture was extracted with EtOAc. The combined organic phases were washed with brine, dried over MgSO4, filtered and concentrated. The product was purified by flash chromatography (20 g silica gel, heptane/EtOAc 9:1) to give title compound as colorless viscous oil (133 mg). MS (m/e, ISP neg. ion)=507.1 [M−H+].

reactant | 3-chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(5-methyl-pyrazin-2-yl)-propyl]-phenol | 0.35 mmol, 120 mg | ClC=1C=C(C=CC1C(C(C(F)(F)F)(C1=NC=C(N=C1)C)O)C)O | C15H14ClF3N2O2
reactant | ethyl 4-(bromomethyl)benzoate | 0.78 mmol, 197 mg | BrCC1=CC=C(C(=O)OCC)C=C1 | C10H11BrO2
reactant | potassium iodide | 0.05 mmol, 9 mg | [I-].[K+]
reactant | potassium carbonate | 0.78 mmol, 108 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(5-methyl-pyrazin-2-yl)-propyl]-phenoxymethyl}-benzoic acid ethyl ester | 133 mg | C(C)OC(C1=CC=C(C=C1)COC1=CC(=C(C=C1)C(C(C(F)(F)F)(C1=NC=C(N=C1)C)O)C)Cl)=O | C25H24ClF3N2O4
